US07378420B2
C. Synthesis of (S)-1-(1-methylpyrrolidin-2-yl methyl) piperazine
To a solution of (S)-1-benzyl-4-[(1-methylpyrrolidin-2-yl) methyl] piperazine 0.71 g (2.61 mmol) in 40 ml THF was added 10% Pd/C 0.4 g and exposed to 1 atm hydrogen overnight. The reaction mixture was filtered. The filtrate was concentrated to give 0.450 g of desired product in 94% yield.

reactant | (S)-1-benzyl-4-[(1-methylpyrrolidin-2-yl) methyl] piperazine | 2.61 mmol, 0.71 g | C(C1=CC=CC=C1)N1CCN(CC1)C[C@H]1N(CCC1)C | C17H27N3
reactant | hydrogen | [H][H] | H2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | (S)-1-(1-methylpyrrolidin-2-yl methyl) piperazine | 0.450 g, 94% yield | CN1[C@@H](CCC1)CN1CCNCC1 | C10H21N3
